US04812458
6-Chloro-2,3-dihydroxy-7-nitroquinoxaline
Finely powdered potassium nitrate (1.01 g, 10 mmol) was added during 5 min. to a stirred solution of 6-chloro-2,3-dihydroxyquinoxaline (1.97 g, 10 mmol) in 50 ml of conc. sulfuric acid at 0° C. (icebath). After 1 h the icebath was removed and stirring was continued for 21/2 h at room temperature. The mixture was poured into 200 ml of ice/water and the precipitate was isolated, washed with water, ethanol, and ether. The product was dissolved in 70 ml of hot 2N sodium hydroxide, filtered while hot, and reprecipitated with conc. hypochloric acid to give 2.12 g (88%) of pure title compound; m.p. >300° C.;

reactant | potassium nitrate | 10 mmol, 1.01 g | [N+](=O)([O-])[O-].[K+]
reactant | 6-chloro-2,3-dihydroxyquinoxaline | 10 mmol, 1.97 g | ClC=1C=C2N=C(C(=NC2=CC1)O)O | C8H5ClN2O2
solvent | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | 6-Chloro-2,3-dihydroxy-7-nitroquinoxaline | 2.12 g, 88% | ClC=1C=C2N=C(C(=NC2=CC1[N+](=O)[O-])O)O | C8H4ClN3O4
